US06919338B2
2-nitro-4-(1-piperidin-4-ylmethoxy)-5-methoxybenzonitrile
2-nitro-4-((1-tert-butyloxycarbonylpiperidin-4-yl)methoxy)-5-methoxybenzonitrile (1.17 g, 3 mmol) in CH2Cl2 (12 ml) was treated with TFA (2.4 ml) for 1 hour at room temperature. The solvent was evaporated, the residue was taken up in a mixture of CH2Cl2 and concentrated sodium bicarbonate, extracted with CH2Cl2. The organic phase was dried over MgSO4, concentrated to give title compound as a solid (770 mg, 88%).

reactant | 2-nitro-4-((1-tert-butyloxycarbonylpiperidin-4-yl)methoxy)-5-methoxybenzonitrile | 3 mmol, 1.17 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C19H25N3O6
reactant | TFA | 2.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-nitro-4-(1-piperidin-4-ylmethoxy)-5-methoxybenzonitrile | 770 mg, 88% | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1CCNCC1)OC | C14H17N3O4
